US07759373B2
To a mixture of 2-(5-benzo[b]furyl)-4-methoxycarbonyl-methyl-5-oxo-2-oxazoline (410 mg) and 3-thenoyl chloride (242 mg) in ethyl acetate (8 ml) was added triethyl amine (0.23 ml) under ice-cooling, and the mixture was stirred at room temperature for 0.5 hour. Ethyl acetate was added to the mixture, the mixture was filtered and the resulting filtrate was concentrated under reduced pressure. A mixture of the resulting residue and pyridine (3.6 ml) was stirred at room temperature for 10 minutes followed by stirring at 60° C. for 2 hours. Then, acetic acid (1.35 ml) was added to the mixture and the resulting mixture was stirred at 80° C. for 1.5 hours. After cooling, to the reaction mixture were added water and ethyl acetate, the organic layer was collected, washed successively with a 10% aqueous hydrochloric acid solution, a saturated aqueous sodium hydrogen carbonate solution and brine, dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. The resulting residue was purified by silica gel column chromatography (solvent: hexane:ethyl acetate=5:1) to obtain methyl 3-(5-benzo[b]furoylamino)-4-(3-thienyl)-4-oxobutyrate (253 mg) as colorless powder.

reactant | 2-(5-benzo[b]furyl)-4-methoxycarbonyl-methyl-5-oxo-2-oxazoline | 410 mg | O1C2=C(C=C1)C=C(C=C2)C=2OC(C(N2)(C(=O)OC)C)=O | C14H11NO5
reactant | 3-thenoyl chloride | 242 mg | C1=C(C=CS1)C(=O)Cl | C5H3ClOS
reactant | triethyl amine | 0.23 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | 8 ml | C(C)(=O)OCC | C4H8O2
product | methyl 3-(5-benzo[b]furoylamino)-4-(3-thienyl)-4-oxobutyrate | 253 mg | O1C2=C(C=C1)C=C(C=C2)C(=O)NC(CC(=O)OC)C(=O)C2=CSC=C2 | C18H15NO5S
